US04555518
58 g of chlorodifluoromethane are passed into a solution of 55.5 g of guaiacol and 130 g of sodium hydroxide in 300 ml of water and 300 ml of dioxane at 60° C. The mixture is filtered at 10° C. and the organic phase is separated off, dried with anhydrous potassium carbonate and distilled. 56 g (73%) of 1-difluoromethoxy-2-methoxybenzene of boiling point 75°-79° C./0.9 kPa are obtained.

reactant | chlorodifluoromethane | 58 g | ClC(F)F | CHClF2
reactant | guaiacol | 55.5 g | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | sodium hydroxide | 130 g | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 1-difluoromethoxy-2-methoxybenzene | 56 g, 73% | FC(OC1=C(C=CC=C1)OC)F | C8H8F2O2
